US07173151B2
tert-Butyl 4-(cis-3-allyloxycyclohexyl)-2-ethylbutyrate
1.19 g of tert-butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)butyrate are dissolved in 50 ml of dimethylformamide, and 210 mg g of sodium hydride (60% strength in paraffin oil) are added. The suspension is stirred at room temperature for 15 minutes, and 1.6 ml of allyl bromide are then added. After one hour, a further 320 mg of sodium hydride are added. After 12 hours of stirring at room temperature, another 320 mg of sodium hydride and then 1.6 ml of allyl bromide are metered in. Stirring at room temperature is continued for a further 12 hours. After addition of 200 ml of methyl tert-butyl ether, the mixture is washed three times with in each case 100 ml of water and the organic phase is separated off and dried over magnesium sulfate. The solvent is removed under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane:ethyl acetate=60:1=>30:1. This gives 770 mg of tert-butyl 4-(cis-3-allyloxycyclohexyl)-2-ethylbutyrate as an oil. C19H34O3 (310.48), Rf(n-heptane:ethyl acetate=5:1)=0.48.

reactant | tert-butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)butyrate | 1.19 g | C(C)C(C(=O)OC(C)(C)C)CC[C@@H]1C[C@@H](CCC1)O | C16H30O3
reactant | sodium hydride | [H-].[Na+]
reactant | allyl bromide | 1.6 ml | C(C=C)Br | C3H5Br
reactant | sodium hydride | 320 mg | [H-].[Na+]
reactant | sodium hydride | 320 mg | [H-].[Na+]
reactant | allyl bromide | 1.6 ml | C(C=C)Br | C3H5Br
reactant | methyl tert-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(cis-3-allyloxycyclohexyl)-2-ethylbutyrate | C(C=C)O[C@H]1C[C@H](CCC1)CCC(C(=O)OC(C)(C)C)CC | C19H34O3
